US08614328B2
A stirred mixture of 3-(4-methoxy-benzyloxy)-phthalic acid (1.5 g, 5.2 mmol), alpha-amino-glutarimide hydrochloride (0.90 g, 5.4 mmol) in pyridine was refluxed overnight. The mixture was evaporated in vacuo, and the residue was purified by flash column chromatography (Silica Gel, methanol/methylene chloride, 0% gradient to 10% 30 min) to give 2-(2,6-dioxo-piperidin-3-yl)-4-(4-methoxy-benzyloxy)-isoindole-1,3-dione as a white solid (0.83 g, 40% yield); HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 50/50 CH3CN/0.1% H3PO4, RT=4.17 min (98.6%); mp, 178-180° C.; 1HNMR (DMSO-d6) δ1.99-2.06 (m, 1H, CHH), 2.51-2.82 (m, 2H, CHHCH2), 3.76 (s, 3H, CH3), 5.08 (dd, J=6, 12 Hz, 1H, CH), 5.29 (s, 2H, CH2), 6.95-7.84 (m, 7H, Ar), 11.11 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.96, 30.91, 48.72, 55.08, 69.92, 113.88, 115.41, 116.55, 120.29, 127.93, 129.21, 133.25, 136.92, 155.57, 159.10, 165.28, 166.77, 169.90, 172.75. Anal Calcd For C21H18N2O6: C, 63.96; H, 4.60; N, 7.10. Found: C, 63.86; H, 4.30; N, 6.92.

reactant | 3-(4-methoxy-benzyloxy)-phthalic acid | 5.2 mmol, 1.5 g | COC1=CC=C(COC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=C1 | C16H14O6
reactant | alpha-amino-glutarimide hydrochloride | 5.4 mmol, 0.90 g | Cl.NC1C(=O)NC(CC1)=O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(2,6-dioxo-piperidin-3-yl)-4-(4-methoxy-benzyloxy)-isoindole-1,3-dione | 0.83 g, 40% yield | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)OCC1=CC=C(C=C1)OC)=O)=O | C21H18N2O6
